US07812040B2
4-({trans-3-[2-Chloro-3-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)morpholine Dihydrochloride.
A solution of intermediate 51, 2-Chloro-3-(pyrrolidin-1-ylmethyl)phenol (0.68 g, 32 mmol) and potassium tert-butoxide (0.40 g, 32 mmol) in DMSO (10 mL) was heated to 100° C. under vigorous stirring in a flow of argon. The mixture was stirred at this temperature for 15 min. A solution of intermediate 41, cis-3-(Morpholin-4-ylmethyl)cyclobutyl methanesulfonate (0.4 g, 16 mmol) in DMSO (10 mL) and tetrabutylammonium bromide (0.16 g, 0.48 mmol) were added. The mixture was stirred at 100° C. for 1 h, cooled, and diluted with Et2O (50 mL). The solution was washed with water (50 mL), 1N NaOH (3×50 mL), brine, dried with Na2SO4, and evaporated. The obtained product was dissolved in ether, and 4M HCl/dioxane (0.7 mL) was added. The reaction mixture was evaporated, the residue was recrystallized from iPOH-Et2O, separated by filtration, washed with ether, and dried in vacuo to give the title compound (208 mg, 36%) as white crystals. LCMS-data: 365.1, 367.1 and 368.1 (M+H)+, 479.1 (M+TFA+H)+ (calculated for C20H28N2O2Cl 364.92). 1H NMR data (DMSO-d6): 10.70-11.45 (m, 2H, N+H2); 7.33-7.52 (m, 2H, Ar—H); 7.00 (d, 1H, Ar—H, J=8 Hz); 4.87-4.96 (m, 1H); 4.50 (d, 2H, J=5 Hz); 3.81-3.96 (m, 4H); 3.24-3.49 (m, masked); 2.84-3.16 (m, 5H); 2.25-2.41 (m, 2H); 1.83-2.10 (m, 4H).

reactant | 2-Chloro-3-(pyrrolidin-1-ylmethyl)phenol | 32 mmol, 0.68 g | ClC1=C(C=CC=C1CN1CCCC1)O | C11H14ClNO
reactant | potassium tert-butoxide | 32 mmol, 0.40 g | CC(C)([O-])C.[K+]
reactant | cis-3-(Morpholin-4-ylmethyl)cyclobutyl methanesulfonate | 16 mmol, 0.4 g | CS(=O)(=O)O[C@@H]1C[C@@H](C1)CN1CCOCC1 | C10H19NO4S
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium bromide | 0.48 mmol, 0.16 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 4-({trans-3-[2-Chloro-3-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)morpholine Dihydrochloride | 208 mg, 36% | Cl.Cl.ClC1=C(O[C@@H]2C[C@H](C2)CN2CCOCC2)C=CC=C1CN1CCCC1 | InChI=1S/C20H29ClN2O2.2ClH/c21-20-17(15-22-6-1-2-7-22)4-3-5-19(20)25-18-12-16(13-18)14-23-8-10-24-11-9-23;;/h3-5,16,18H,1-2,6-15H2;2*1H/t16-,18-;;
